Name:  ___.                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: NEUROSURGERY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___
 
Chief Complaint:
Worsening right hand weakness. 
 
Major Surgical or Invasive Procedure:
___- Right craniectomy for wound washout. 

 
History of Present Illness:
Mr. ___ is a ___ yo male with MVR on coumadin who is s/p R
craciectomy x2 for R ___ evacuation in ___, who presents
with new left handed clumsiness. Patient was discharged in
mid-___ after a prolonged course in the hospital due to his
anticoagulation needs for MVR. On discharge, his left sided hand
weakness had completely resolved. He had been recovering well
until 3 days ago when he noticed his left hand was more clusmy.
Over the last 2 days, this has worsened to the point that he
can't pick things up with his left hand or make a fist. He has
also noticed drooling and a facial droop on the left side of his
face. He states he has also had some yellowish drainage from his
crani wound. He denies fevers, chills, and malaise. He denies
headaches, weakness in other limbs, and difficulty with speech. 
The risks and benefits of surgical intervention were discussed 
and the patient consented to the procedure. 

 
Past Medical History:
Past Medical History: (from ___)
- prior splenic infarct when INF was low earlier this year

Past Surgical History: (from OMR)
- mitral valve replacement ___
- MVP s/p MAZE procedure and left atrial appendage ligation ___
- R crani and ___ evacuation x ___

 
Social History:
___
Family History:
-mother:  in good health
-father:  in good health
 
Physical Exam:
PHYSICAL EXAMINATION ON ADMISSION:
96.6 85 125/70 18 96% 
Gen: WD/WN, comfortable, NAD.
HEENT: Pupils: Reactive 4 to 3 mm  EOMs intact
R crani wound with central sinus draining purulent fluid, no
fluctuant abscess underneath but able to express more fluid with
pressure. Mild erythema over incision. 
Neck: Supple.
Lungs: CTA bilaterally.
Cardiac: RRR. S1/S2.
Abd: Soft, NT
Extrem: Warm and well-perfused.

Neuro:
Mental status: Awake and alert, cooperative with exam, normal
affect.
Orientation: Oriented to person, place, and date.
Language: Speech fluent with good comprehension and repetition..

Cranial Nerves:
I: Not tested.
II: Pupils equally round and reactive to light, to
mm bilaterally. Visual fields are full to confrontation.
III, IV, VI: Extraocular movements intact bilaterally without
nystagmus.
V, VII: Facial strength and sensation intact and symmetric.
VIII: Hearing intact to voice.
IX, X: Palatal elevation symmetrical.
XI: Sternocleidomastoid and trapezius normal bilaterally.
XII: Tongue midline without fasciculations.

Motor: Facial droop noted on left. Hand ___ on left, however
proximal muscles ___ abnormal movements, tremors. Strength
full power ___ on right. 
Sensation: Intact to light touch, propioception, pinprick and
vibration bilaterally.

Coordination: normal on finger-nose-finger, rapid alternating
movements, heel to shin.

PHYSICAL EXAMINATION ON DISCHARGE:
A&Ox3
PERRL
EOMs intact
L facial droop
L pronator drift 
tongue deviation to the L
L grip ___, otherwise full strength
Incision: c/d/i with staples and sutures
 
Pertinent Results:
Labs:

8.3 > 11.___ / 34.7 < ___  13  
-------------< 108
3.4  26  0.8 

___: 41.8  PTT: 42.7  INR: 3.7  

___ CT Head:
Extensive white matter edema in the posterior aspect of the 
right
frontal lobe which extends medially to the level of the basal
ganglia. There is a small low attenuation extra-axial fluid
collection lateral to the right frontal lobe which measures 4 mm
in diameter. There is low attenuation in the lateral aspect of
the right temporal lobe compatible with encephalomalacia. There
is also extensive subcortical white matter edema in the 
posterior
aspect of the right frontal lobe. The white matter edema in the
right frontal lobe causes mild mass effect on the frontal horn 
of
the right lateral ventricle and creates slight shift of the
midline to the left by approximately 3 mm. No evidence of
hemorrhage.

MRI HEAD W & W/O: ___
1. Findings compatible with extracranial right frontoparietal 
abscess in the surgical bed which likely extends through the 
craniotomy skull defects to a right frontoparietal and temporal 
enhancing collection highly concerning for empyema. 
2. There is associated diffuse right cerebral hemisphere 
pachymeningeal enhancement as well as more focal leptomeningeal 
enhancement involving the posterior right frontal, parietal and 
superior temporal lobes. Cerebral edema underlying the 
pachymeningeal enhancement is compatible with 
meningoencephalitis/cerebritis. 
3. The edema results in 4 mm leftward midline shift as well as 
effacement of the right lateral ventricle without subfalcine or 
uncal herniation at the time exam. 
4. There is no evidence of acute infarct. 
5. The dural venous sinuses are patent. 
6. At the time of this dictation, the patient was already 
planned for surgery and washout. 

CT Head without Contrast: ___
1.  Status post right frontal craniectomy with expected 
postoperative 
pneumocephalus. 
2. Slightly increased size of right frontotemporal subdural 
collection 
measuring up to 11 mm in maximum thickness (previously 7 mm). 
3.  Stable pattern of right frontotemporal edema. 
4.  Unchanged mass effect resulting in 4 mm leftward shift of 
normally midline structures.  No uncal or downward herniation at 
this time. 

Radiology Report CT HEAD W/O CONTRAST Study Date of ___ 
1:22 ___ 

IMPRESSION: 
  
  
1. The examination is degraded by motion 
2. Stable postoperative appearance of right frontal craniectomy 
for wound 
washout. 3. Stable 7 mm right frontotemporal subdural 
collection. 
4. Stable right frontotemporal edema and 4 mm leftward shift of 
midline 
structures. 
Radiology Report CT HEAD W/O CONTRAST Study Date of ___ 
11:01 AM 

IMPRESSION:  
  
1. Status post right frontal craniectomy for wound washout with 
small amount of blood along the craniectomy defect. 2.  Stable 
frontotemporal edema causing effacement of the right lateral 
ventricle and leftward shift of midline structures by 6 mm. 3.  
No new intracranial hemorrhage. 
  

 
Brief Hospital Course:
Mr. ___ was transferred from an OSH on the night of ___ with 
increased left hand weakness. He was noted to have drainage from 
his previous right crani incision. He was transferred to the 
neurosurgical floor for further monitoring and planning. Blood 
cultures were obtained and sent. The pt is afebrile and his wbc 
is 5. He was started on Vanco and Ceftriaxone. He was made NPO 
for possible OR tomorrow. 

On ___, the patient remained neurologically stable. He 
continued with drainage from his incision. He continued on Vanco 
but the ceftriaxone was changed to Cefepime for pseudomonas 
coverage. His INR was 3.7 and a cardiology consult was obtained 
to for recommendations on reversal of his INR, in order to 
operated on the patient today for a wound washout. However, they 
recommended to consult hematology for recs. Hematology was 
consulted and they recommended 4 units of FFP and 5 mg of 
Vitamin K. His INR was repeated and was 1.7. Both teams 
expressed their concerns of the risk for stroke with reversal of 
INR due to his mechanical valve, and both teams recommend to 
start anticoagulation with heparin, no bolus as soon as 
possible. An MRI of the head was obtained and showed abscess 
with concenrs of empyema in the surgical bed along with 
pachymeningeal enhancement which is compatible with 
meningoencephalitis/cerebritis. Due to the extension of the 
infection, infectious disease was consulted for continued 
management with antibiotics. ID will see the patient tomorrow. 

On ___, the patient's neurologic examination remained stable. 
ID were consulted. Cultures obtained from the OR showed no 
growth to date. He remained on Vancomycin and Cefepime. Drain 
output was minimal. 

On ___, the patient's neurologic examination remained stable. 
The patient was continued on Vancomycin and Cefepime per ID 
recommendations. All 3 wound cultures grew out staph aureus, 
sensitivites pending. Drain output was minimal and was d/c'ed. 
Repeat head CT was performed and was stable. ___ were 
consulted. On ___ his Vancomycin trough was 9.9 and his dose 
was increased to 1500mg Q8hrs. A Heparin drip was also started 
with a PTT goal of 60-80. He remained neurologically stable on 
exam. 

Mr. ___ was consented and a PICC line placed in the right 
upper extremity with confirmed placement on ___. ID 
following for wound infection and recommend continue Vancomycin 
1500mg IV Q8H and will follow trough level for goal ___. 

On ___, Mr. ___ was seen by the Speech/Language pathologist 
due to concerns of difficulty swallowing.  He had no issues 
during their evaluation and was kept on a regular diet with thin 
liquids.  His Vanco trough was 29, so his dosing was decreased 
to 1250mg IV q 8 hours with a trough pending prior to his next 
dose. 

Mr. ___ wound culture final results grew staph aureus  
coagulase positive; and based upon sensitivity and ID 
recommendations, the Vancomycin was discontinued and he started 
on Cefazolin on ___.  Mr. ___ continued on heparin 
infusion anticoaglation for a goal PTT 60-80, and Coumadin 5mg 
daily was initiated the evening of ___. Mr. ___ was 
evaluated by Physical Therapy with the recommendations of acute 
rehab upon discharge. The patient was noted to have loose 
stools. A stool sample was sent for Cdiff considering not taking 
bowel meds and on abx. 

On ___, The Heparin gtt was noted to be therapeutic at 64. A 
NCHCT was ordered. A CDiff specimen was pending. The patient was 
initiated on iron for low levels per Hematoloy service. 

On ___, The  Heparin gtt was therapeutic at 72 and the INR was 
1.3.  The Coumadin was increased 7.5mg daily. The stool sample 
that was sent for Cdiff was noted to be negative. The left grip 
was improving: now ___. 

___, patient remained stable on exam. His PTT was 
supertheraputic and heparin gtt was adjusted. He also had 
hypokalemia and was repleted with ___ of potassium. Repeat PTT 
was 65. He continued to trend up on his PTT and heparin gtt was 
adjusted accordingly.

On ___, exam was unchanged. He was accepted to an acute rehab 
and was discharged in stable conditon on a heparin gtt bridge to 
coumadin. His last INR was 1.8 on a coumadin dose of 7.5mg. 
 
Medications on Admission:
1. Acetaminophen 650 mg PO Q6H:PRN fever or pain 
2. Aspirin 81 mg PO DAILY 
3. Docusate Sodium 100 mg PO BID 
4. LeVETiracetam 1000 mg PO BID 
5. Senna 17.2 mg PO QHS 
6. HYDROmorphone (Dilaudid) 2 mg PO Q6H:PRN pain 
7. Bisacodyl 10 mg PO/PR DAILY constipation 
8. Warfarin 6 mg PO DAILY
9. celecoxib 200 mg Daily
10. Atorvastatin 40 mg Daily
11. atenolol 12.5 mg Daily
12. diazepam 5 mg Twice Daily
 

 
Discharge Medications:
1. Outpatient Lab Work
WEEKLY: CBC with differential, BUN, Cr, AST, ALT, TB, ALK PHOS, 
ESR, CRP

Please fax results to:
ATTN: ___ CLINIC - FAX: ___

2. Acetaminophen 650 mg PO Q6H:PRN fever 
3. Aspirin 81 mg PO DAILY 
4. Atenolol 12.5 mg PO DAILY 
5. Atorvastatin 40 mg PO QPM 
6. Bisacodyl 10 mg PO DAILY:PRN constipation 
7. CefazoLIN 2 g IV Q8H 
8. Diazepam 5 mg PO Q12H:PRN spasm 
9. Docusate Sodium 100 mg PO BID 
10. Ferrous Sulfate 325 mg PO DAILY 
11. HYDROmorphone (Dilaudid) ___ mg PO Q6H:PRN pain 
12. Sodium Chloride 0.9%  Flush ___ mL IV DAILY and PRN, line 
flush 
13. Warfarin 7.5 mg PO DAILY16 
14. LeVETiracetam 1000 mg PO BID 
15. Heparin IV 
No Initial Bolus
Initial Infusion Rate: 1725 units/hr
Start: Today - ___, First Dose: 0900 
16. HydrALAzine ___ mg IV Q6H:PRN SBP >160 

 
Discharge Disposition:
Extended Care
 
Facility:
___
 
Discharge Diagnosis:
Wound Infection 
Subdural Empyema

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - requires assistance or aid (walker 
or cane).

 
Discharge Instructions:
Discharge Instructions
Cranioplasty for Wound Washout

•*** You underwent a surgery called a craniectomy for wound 
washout due to wound infection. A portion of your skull was 
removed to clean out your wound and to treat your bone flap with 
antibiotics. You must wear a helmet when out of bed at all 
times.
•Please keep your sutures and staples along your incision dry 
until they are removed.
•It is best to keep your incision open to air but it is ok to 
cover it when outside. 
•Call your surgeon if there are any signs of infection like 
redness, fever, or drainage. 

Activity
•We recommend that you avoid heavy lifting, running, climbing, 
or other strenuous exercise until your follow-up appointment.
•You make take leisurely walks and slowly increase your 
activity at your own pace once you are symptom free at rest. 
___ try to do too much all at once.
•No driving while taking any narcotic or sedating medication. 
•If you experienced a seizure while admitted, you are NOT 
allowed to drive by law. 
•No contact sports until cleared by your neurosurgeon. You 
should avoid contact sports for 6 months. 

Medications
•***You have been discharged on Keppra (Levetiracetam). This 
medication helps to prevent seizures. Please continue this 
medication as indicated on your discharge instruction. It is 
important that you take this medication consistently and on 
time. 
•You may use Acetaminophen (Tylenol) for minor discomfort if 
you are not otherwise restricted from taking this medication.

What You ___ Experience:
•You may have difficulty paying attention, concentrating, and 
remembering new information.
•Emotional and/or behavioral difficulties are common. 
•Feeling more tired, restlessness, irritability, and mood 
swings are also common.
•You may also experience some post-operative swelling around 
your face and eyes. This is normal after surgery and most 
noticeable on the second and third day of surgery.  You apply 
ice or a cool or warm washcloth to your eyes to help with the 
swelling. The swelling will be its worse in the morning after 
laying flat from sleeping but decrease when up. 
•You may experience soreness with chewing. This is normal from 
the surgery and will improve with time. Softer foods may be 
easier during this time. 
•Constipation is common. Be sure to drink plenty of fluids and 
eat a high-fiber diet. If you are taking narcotics (prescription 
pain medications), try an over-the-counter stool softener.
Headaches:
•Headache is one of the most common symptoms after a brain 
bleed. 
•Most headaches are not dangerous but you should call your 
doctor if the headache gets worse, develop arm or leg weakness, 
increased sleepiness, and/or have nausea or vomiting with a 
headache. 
•Mild pain medications may be helpful with these headaches but 
avoid taking pain medications on a daily basis unless prescribed 
by your doctor. 
•There are other things that can be done to help with your 
headaches: avoid caffeine, get enough sleep, daily exercise, 
relaxation/ meditation, massage, acupuncture, heat or ice packs. 


When to Call Your Doctor at ___ for:
•Severe pain, swelling, redness or drainage from the incision 
site. 
•Fever greater than 101.5 degrees Fahrenheit
•Nausea and/or vomiting
•Extreme sleepiness and not being able to stay awake
•Severe headaches not relieved by pain relievers
•Seizures
•Any new problems with your vision or ability to speak
•Weakness or changes in sensation in your face, arms, or leg

Call ___ and go to the nearest Emergency Room if you experience 
any of the following:
•Sudden numbness or weakness in the face, arm, or leg
•Sudden confusion or trouble speaking or understanding
•Sudden trouble walking, dizziness, or loss of balance or 
coordination
•Sudden severe headaches with no known reason

 
Followup Instructions:
___